US08912208B2
A. (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-acetaldehyde
To a solution of (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-acetic acid ethyl ester (500 mg, 1.14 mmol) in DCM (20 mL) at −78° C. is added DIBAL-H (1 M in toluene, 2.14 mL, 2.14 mmol) and the mixture is allowed to stir at −78° C. for 2 h. Methanol (3 mL) is added to quench the reaction. The reaction mixture is then poured in ice and Rochelle's salt (4 g). Water (20 mL) is added and the mixture is extracted with EtOAc (3×30 mL). The organic phase is washed with brine (3×30 mL), dried with Na2SO4 and concentrated to give the title compound (253 mg) as a white solid: (M+H)+ 395.2.

reactant | (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-acetic acid ethyl ester | 1.14 mmol, 500 mg | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C1=CN=C(O1)NC1=CC(=CC=C1)Cl)=O | C25H27ClN2O3
reactant | DIBAL-H | 2.14 mmol, 1 M, 2.14 mL | CC(C)C[AlH]CC(C)C
reactant | Methanol | 3 mL | CO | CH4O
reactant | Water | 20 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Rochelle's salt | 4 g | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
product | (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-acetaldehyde | 253 mg | ClC=1C=C(C=CC1)NC=1OC(=CN1)C1=CC=C(C=C1)C1CCC(CC1)CC=O | C23H23ClN2O2
